US08022206B2
7-[(R)-1-(2,6-Dichloro-3-fluorophenyl)-ethoxy]-3-(1-methyl-1H-pyrazol-4-yl)-furo[3,2-c]pyridin-6-ylamine
A mixture of 3-bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-furo[3,2-c]pyridin-6-ylamine (40 mg, 0.095 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (30 mg, 0.14 mmol), and potassium carbonate (39 mg, 0.28 mmol) in 1,4-dioxane (1.5 mL) and H2O (0.5 mL) was degassed and refilled with argon (3×) prior to addition of (1,1′-bis(diphenylphosphino)-ferrocene) palladium dichloride (7.0 mg, 0.0095 mmol). The reaction mixture was degassed and refilled with argon (2×) and stirred at 100° C. for 30 min in a CEM microwave. LC-MS showed completion of the reaction. The mixture was diluted with EtOAc (30 mL), washed with brine (10 mL), and dried over anhydrous sodium sulfate. The residue was purified by mass-directed purification to give the title compound as a brown oil (15.9 mg). 1H NMR (CDCl3, 400 MHz): δ=1.91 (d, J=6.8 Hz, 3H), 4.00 (s, 3H), 5.93 (br s, 2H), 6.65 (q, J=6.8 Hz, 1H), 7.09 (dd, J=9.1, 7.8 Hz, 1H), 7.31 (dd, J=9.1, 4.8 Hz, 1H), 7.58 (s, 1H), 7.64 (s, 1H), 7.71 (s, 1H), 8.03 (s, 1H). MS (ES+): 421.00/423.02 [MH+].

reactant | 3-bromo-7-[(R)-1-(2,6-dichloro-3-fluorophenyl)-ethoxy]-furo[3,2-c]pyridin-6-ylamine | 0.095 mmol, 40 mg | BrC1=COC2=C1C=NC(=C2O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl)N | C15H10BrCl2FN2O2
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.14 mmol, 30 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | potassium carbonate | 0.28 mmol, 39 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 0.5 mL | O | H2O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | (1,1′-bis(diphenylphosphino)-ferrocene) palladium dichloride | 0.0095 mmol, 7.0 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 7-[(R)-1-(2,6-Dichloro-3-fluorophenyl)-ethoxy]-3-(1-methyl-1H-pyrazol-4-yl)-furo[3,2-c]pyridin-6-ylamine | 15.9 mg | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C2=C(C=NC1N)C(=CO2)C=2C=NN(C2)C | C19H15Cl2FN4O2
